US07482356B2
Preparation of 3-(2-Methylsulfanyl-pyrimidin-4-yl)-3-oxo-2-ortho-tolyloxy-propionic acid methyl ester (1):
To a cold (−78° C.) solution of lithium diisopropylamide (31.5 mL of 1.8 M solution in THF, 56.6 mmol) in THF (180 mL) is added dropwise a solution of ethyl-(2-methylphenoxy)acetate (10.0 g, 51.5 mmol) in THF (30 mL). After stirring for 1 h at −78° C. a solution of 2-methylsulfanyl-pyrimidine-4-carboxylic acid methoxy-methyl-amide (10.4 g, 48.9 mmol) in THF (30 mL) is added dropwise to the reaction mixture. After stirring 20 min at −78° C., the reaction mixture is warmed to 0° C. and stirred for an additional 30 min. The reaction is quenched by pouring into aqueous saturated NH4Cl. The aqueous phase is extracted with EtOAc (×2). The combined organic phases are dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified by silica gel chromatography (10% EtOAc/hexanes, followed by 30% EtOAc/hexanes) to afford 2.1 g (32%) of the desired product. 1H NMR (300 MHz, CDCl3) (observed 3:1 mixture of keto:enol tautomers) keto tautomer: δ 8.80 (d, J=4.2 Hz, 1H), 7.57 (d, J=4.8 Hz, 1H), 7.20-7.14 (m, 2H), 6.96 (t, J=7.2 Hz, 1H), 6.85 (d, J=8.1 Hz, 1H), 6.29 (s, 1H), 4.30 (q, J=7.2 Hz, 2H), 2.50 (s, 3H), 2.27 (s, 3H), 1.26 (t, J=7.2 Hz, 3H); ESI+ MS: m/z (rel intensity) 347.1 (100, M++H).

reactant | lithium diisopropylamide | 56.6 mmol, 1.8 M, 31.5 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl-(2-methylphenoxy)acetate | 51.5 mmol, 10.0 g | C(C)OC(COC1=C(C=CC=C1)C)=O | C11H14O3
reactant | 2-methylsulfanyl-pyrimidine-4-carboxylic acid methoxy-methyl-amide | 48.9 mmol, 10.4 g | CON(C(=O)C1=NC(=NC=C1)SC)C | C8H11N3O2S
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(2-Methylsulfanyl-pyrimidin-4-yl)-3-oxo-2-ortho-tolyloxy-propionic acid methyl ester | 2.1 g, 32% | COC(C(C(=O)C1=NC(=NC=C1)SC)OC1=C(C=CC=C1)C)=O | C16H16N2O4S
